* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/XNOR/XNOR_lvs/XNOR.pex.sp.pex
* Created: Thu Nov 30 18:15:54 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XNOR%NET012 3 4 9 11 14 18 19 20 23 34 37 40 42
c108 40 0 1.84933e-21
r109 37 38 25
r110 32 34 0.098123
r111 29 31 0.205465
r112 26 40 15
r113 23 26 0.577442
r114 23 40 10
r115 21 34 0.00503833
r116 21 23 0.521141
r117 20 31 0.0437182
r118 19 37 0.0817788
r119 19 20 0.633933
r120 18 32 0.00503833
r121 17 31 0.00503833
r122 17 18 0.623817
r123 14 42 10
r124 12 29 0.00503833
r125 12 14 0.420465
r126 7 38 8.76519
r127 7 9 25.3858
r128 4 11 44.9134
r129 3 38 5.10618
r130 3 4 51.748
.ends

.subckt PM_XNOR%VSS 1 2 9 14 19 26
r60 16 19 0.388606
r61 14 16 0.11561
r62 12 22 0.0264868
r63 12 14 0.066063
r64 9 26 10
r65 7 22 0.018948
r66 7 9 1.67314
r67 2 22 0.0264868
r68 2 4 0.313799
r69 1 19 15
r70 1 16 10
r71 1 4 10
.ends

.subckt PM_XNOR%NET016 3 6 7 10 13 15
r40 10 15 10
r41 8 10 0.393527
r42 6 8 0.0479332
r43 6 7 0.551246
r44 3 13 10
r45 1 7 0.0479332
r46 1 3 0.485051
.ends

.subckt PM_XNOR%OUT 5 9 15 16 19 23 24 25 26 28
c78 26 0 1.84933e-21
r79 24 25 0.0013251
r80 22 25 0.051564
r81 22 23 0.111724
r82 19 28 10
r83 17 25 0.051564
r84 17 19 0.814193
r85 15 23 0.0479332
r86 15 16 0.170015
r87 12 26 15
r88 9 12 0.577442
r89 9 26 10
r90 7 16 0.0479332
r91 7 9 0.521141
r92 3 24 0.028188
r93 3 5 1.7
.ends

.subckt PM_XNOR%VDD 1 6 12 19 25 28 37 50 51 53
c77 1 0 7.39734e-21
r78 41 53 15
r79 37 41 0.468484
r80 37 53 10
r81 35 47 0.018948
r82 35 41 1.34572
r83 30 33 0.388606
r84 28 30 0.0922939
r85 26 46 0.0264868
r86 26 28 0.0893794
r87 25 47 0.0264868
r88 25 33 0.114639
r89 23 51 15
r90 19 23 0.577442
r91 19 51 10
r92 17 46 0.018948
r93 17 23 1.6587
r94 13 45 0.0264868
r95 13 15 0.113667
r96 12 46 0.0264868
r97 12 15 0.313799
r98 10 50 15
r99 6 10 0.468484
r100 6 50 10
r101 4 45 0.018948
r102 4 10 1.34572
r103 1 33 15
r104 1 30 10
r105 1 15 10
.ends

.subckt PM_XNOR%NET026 2 9
c18 9 0 3.69867e-21
r19 6 9 15
r20 2 6 0.577442
r21 2 9 10
.ends

.subckt PM_XNOR%IN2 4 6 8 9 10 14 16 17 18 20 22 24 26 28 31
r92 31 34 25
r93 28 31 1.7
r94 17 34 14.4571
r95 17 18 0.235459
r96 15 26 44.9134
r97 15 16 25.3858
r98 14 26 44.9134
r99 13 24 25.3858
r100 13 14 73.2283
r101 9 16 3.46412
r102 9 10 71.2756
r103 8 10 3.46412
r104 7 22 44.9134
r105 7 8 25.3858
r106 6 22 44.9134
r107 5 18 3.96642
r108 5 6 31.2441
r109 4 18 3.96642
r110 3 20 25.3858
r111 3 4 31.2441
.ends

.subckt PM_XNOR%IN1 2 6 9 10 12 16 17 20 22 24 26 31 34 35 36
r111 34 37 5.17889
r112 34 36 5.26239
r113 34 35 25
r114 31 35 1.7
r115 18 26 44.9134
r116 17 24 25.3858
r117 16 18 16.4062
r118 15 17 16.4062
r119 15 16 39.6409
r120 12 24 25.3858
r121 11 12 25.3858
r122 9 11 3.46412
r123 9 10 71.2756
r124 6 22 44.9134
r125 6 37 29.2913
r126 3 20 25.3858
r127 3 36 29.2913
r128 2 20 25.3858
r129 1 10 3.46412
r130 1 2 25.3858
.ends

