* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/XOR/XOR_lvs/XOR.pex.sp.pex
* Created: Thu Nov 30 18:20:42 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%VSS 1 6 9 16 19 22 31 42 43 45
r66 31 45 10
r67 29 38 0.018948
r68 29 31 1.35743
r69 24 27 0.388606
r70 22 24 0.11561
r71 20 37 0.0264868
r72 20 22 0.066063
r73 19 38 0.0264868
r74 19 27 0.114639
r75 16 43 10
r76 14 37 0.018948
r77 14 16 1.67314
r78 10 36 0.0264868
r79 10 12 0.113667
r80 9 37 0.0264868
r81 9 12 0.313799
r82 6 42 10
r83 4 36 0.018948
r84 4 6 1.35743
r85 1 27 15
r86 1 24 10
r87 1 12 10
.ends

.subckt PM_XOR%NET15 4 8 9 11 13 15 16 17 20 25 33 36 39 41 42
c102 20 0 1.71496e-19
c103 13 0 3.33825e-19
c104 9 0 7.42683e-20
r105 37 39 0.112755
r106 33 42 10
r107 31 33 0.518254
r108 28 41 15
r109 25 28 0.468484
r110 25 41 10
r111 23 39 0.00503833
r112 23 25 0.182709
r113 20 21 25
r114 18 36 0.00944082
r115 18 20 1.18862
r116 16 31 0.0479332
r117 16 17 0.446788
r118 15 37 0.00503833
r119 14 36 0.0363272
r120 14 15 0.111724
r121 13 36 0.0363272
r122 12 17 0.0479332
r123 12 13 0.463548
r124 9 21 9.09917
r125 9 11 44.9134
r126 4 21 4.18385
r127 3 8 25.3858
r128 3 4 53.7008
.ends

.subckt PM_XOR%OUT 2 5 9 12 13 16 24 28 30
c75 28 0 1.84933e-21
c76 5 0 6.57299e-20
r77 24 25 0.000445142
r78 22 24 0.0884079
r79 19 28 15
r80 16 19 0.577442
r81 16 28 10
r82 14 22 0.00503833
r83 14 16 0.521141
r84 12 27 0.0481061
r85 12 13 0.440044
r86 9 30 10
r87 7 13 0.0479332
r88 7 9 0.518254
r89 5 25 0.220145
r90 5 27 0.222537
r91 2 5 1.7
.ends

.subckt PM_XOR%NET012 2 9
c18 9 0 3.69867e-21
r19 6 9 15
r20 2 6 0.577442
r21 2 9 10
.ends

.subckt PM_XOR%VDD 1 2 9 17 22 28
c60 1 0 7.39734e-21
r61 19 22 0.388606
r62 17 19 0.0922939
r63 15 25 0.0264868
r64 15 17 0.0893794
r65 13 28 15
r66 9 13 0.577442
r67 9 28 10
r68 7 25 0.018948
r69 7 13 1.6587
r70 2 25 0.0264868
r71 2 4 0.313799
r72 1 22 15
r73 1 19 10
r74 1 4 10
.ends

.subckt PM_XOR%NET014 3 9 10 13 19 21
c42 19 0 1.73346e-19
r43 17 21 15
r44 13 17 0.468484
r45 13 21 10
r46 11 17 0.391184
r47 9 11 0.0479332
r48 9 10 0.551246
r49 7 19 15
r50 3 7 0.577442
r51 3 19 10
r52 1 10 0.0479332
r53 1 7 0.482164
.ends

.subckt PM_XOR%IN2 2 6 9 10 12 16 17 20 22 24 26 29 31 34 36
c95 36 0 1.34047e-19
c96 6 0 1.34047e-19
r97 34 37 4.94667
r98 34 36 5.0343
r99 29 34 25
r100 29 31 1.7
r101 18 26 44.9134
r102 17 24 25.3858
r103 16 18 16.4062
r104 15 17 16.4062
r105 15 16 39.6409
r106 12 24 25.3858
r107 11 12 25.3858
r108 9 11 3.46412
r109 9 10 97.1496
r110 6 22 44.9134
r111 6 37 29.7795
r112 3 20 25.3858
r113 3 36 29.7795
r114 2 20 25.3858
r115 1 10 3.46412
r116 1 2 25.3858
.ends

.subckt PM_XOR%IN1 4 6 7 8 14 16 18 20 22 24 26 29 32 34
c114 26 0 7.42683e-20
r115 32 35 4.95251
r116 32 34 5.03893
r117 29 32 25
r118 26 29 1.7
r119 15 24 44.9134
r120 15 16 25.3858
r121 14 24 44.9134
r122 14 35 29.7795
r123 11 22 25.3858
r124 11 34 29.7795
r125 7 16 3.46412
r126 7 8 45.4016
r127 6 8 3.46412
r128 5 20 44.9134
r129 5 6 25.3858
r130 4 20 44.9134
r131 3 18 25.3858
r132 3 4 73.2283
.ends

